US05981500
To a stirred solution of N-methylpiperazine (0.65 ml) and triethylamine (1.3 ml) in toluene (25 ml) at 0° C. was added dropwise a solution of phosgene in toluene (20%, 5.1 ml) over a period of 15 min. The reaction was allowed to warm to room temperature, stirred for 3 hr, filtered and concentrated to approximately 10 ml under reduced pressure to give a solution of 1-chlorocarbonyl-4-methylpiperazine which was reacted with 5-oximino-25-cyclohexyl-22,23-dihydroavermectin B1 monosaccharide (Example 5) (300 mg), triethylamine (1101) and 4-dimethylaminopyridine (5 mg) in dichloromethane (10 ml) at room temperature according to the method described in Example 45. Purification of the desired material was achieved by chromatography on silica (Kieselgel 60, 230-400 mesh, Merck) (35 g) eluting with dichloromethane. Appropriate fractions were combined and evaporated to dryness under vacuum to give a material (53 mg) which was further purified by high pressure liquid chromatography on a Dynamax (trade mark) column (21.2×250 mm, 5 μm, ODS-silica, Rainin) eluting at 20 ml per minute with a methanol-water 95:5 mixture. Appropriate fractions were combined and evaporated under vacuum to yield the title compound as a white powder. Mass and NMR spectra were fully consistent with the proposed structure.

reactant | N-methylpiperazine | 0.65 ml | CN1CCNCC1 | C5H12N2
reactant | triethylamine | 1.3 ml | C(C)N(CC)CC | C6H15N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5.1 ml | C1(=CC=CC=C1)C | C7H8
product | 1-chlorocarbonyl-4-methylpiperazine | ClC(=O)N1CCN(CC1)C | C6H11ClN2O
